US07763639B2
1-[3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL]-2,2,2-TRIFLUOROETHANONE
Preparation according to Example 1: 2,2,2-trifluoro-1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone (0.70 g, 2.54 mmol), acetonitrile (30 ml), potassium carbonate (0.35 g) and 2-iodoethane (0.40 g. 2.54 mmol). Yield: 0.21 g (27%). The amine was converted to the fumaric acid salt and recrystallized from ethanol/diethyl ether: M.p. 109-110° C. MS m/z (rel. intensity, 70 eV) 303 (M+, 13), 302 (10), 289 (16), 288 (bp), 234 (7).

reactant | 2,2,2-trifluoro-1-(2-fluoro-3-piperidin-4-ylphenyl)ethanone | 2.54 mmol, 0.70 g | FC(C(=O)C1=C(C(=CC=C1)C1CCNCC1)F)(F)F | C13H13F4NO
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodoethane | 2.54 mmol, 0.40 g | ICC | C2H5I
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-[3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL]-2,2,2-TRIFLUOROETHANONE | C(C)N1CCC(CC1)C=1C(=C(C=CC1)C(C(F)(F)F)=O)F | C15H17F4NO
